US05234946
Production of (E)-N-ethyl-N-(6-methoxy-6-methyl-2-hepten-4-ynyl)-3-[3-(3-thienyl)benzylamino]benzylamine (compound 227)
65 mg of (E)-N-ethyl-N-(6-methoxy-6-methyl-2-hepten-4-ynyl)-3-aminobenzylamine and 43 mg of 3-(3thienyl)benzaldehyde were dissolved in 2 ml of methanol, and the solution was stirred overnight at room temperature. With stirring under ice cooling, 12.9 mg of sodium borohydride was added, and stirred for 1 hour at room temperature. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate and water. The organic layer was separated, and dried over anhydrous magnesium sulfate. The desiccant was separated by filtration, and the solvent was evaporated. The residue was purified by silica gel column chromatography Wakogel C-200, 5 g; eluting solvent: methylene chloride/ methanol=60/1] to give 87 mg (yield 84%) of the captioned compound as a pale yellow oil.

reactant | (E)-N-ethyl-N-(6-methoxy-6-methyl-2-hepten-4-ynyl)-3-aminobenzylamine | 65 mg | C(C)N(C\C=C\C#CC(C)(C)OC)CC1=CC(=CC=C1)N | C18H26N2O
reactant | 3-(3thienyl)benzaldehyde | 43 mg | S1C=C(C=C1)C=1C=C(C=O)C=CC1 | C11H8OS
reactant | sodium borohydride | 12.9 mg | [BH4-].[Na+]
reactant | methylene chloride methanol | C(Cl)Cl.CO
solvent | methanol | 2 ml | CO | CH4O
product | (E)-N-ethyl-N-(6-methoxy-6-methyl-2-hepten-4-ynyl)-3-[3-(3-thienyl)benzylamino]benzylamine | 87 mg, yield 84% | C(C)N(C\C=C\C#CC(C)(C)OC)CC1=CC(=CC=C1)NCC1=CC(=CC=C1)C1=CSC=C1 | C29H34N2OS
